US05763437
A mixture of 3-acetyl-2-hydroxymethylpyridine(0.2 g) in dichloromethane(10 ml) was treated with catalytic amount of N,N-dimethylformamide. To the mixture was added dropwise a solution of thionyl chloride (1 ml) in dichloromethane (2 ml) at ca. 5° C. in an ice-water bath. The mixture was stirred for 1 hour under the same condition, and then at room temperature for 40 minutes. To the mixture was added carefully dropwise saturated sodium carbonate aqueous solution under stirring in an ice-water bath. The mixture was taken up with chloroform and washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give 3-acetyl-2-chloromethylpyridine (0.11 g) as a black oil.

reactant | 3-acetyl-2-hydroxymethylpyridine | 0.2 g | C(C)(=O)C=1C(=NC=CC1)CO | C8H9NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-acetyl-2-chloromethylpyridine | 0.11 g | C(C)(=O)C=1C(=NC=CC1)CCl | C8H8ClNO
